US03998834
A mixture of 19 parts of sodium 4-[N-(4-methylphenyl)amino]-1-(2-phenylethyl)-4-piperidinecarboxylate and 200 parts of hexamethylphosphoric triamide is heated to 80° C for a while. After cooling, 12.3 parts of iodomethane are added dropwise at a temperature below 15° C. Upon completion, stirring is continued for 24 hours at room temperature. The reaction mixture is poured onto 600 parts of water and the product is extracted with trichloromethane. The extract is washed twice with water, dried, filtered and evaporated. The oily residue is poured onto 200 parts of water while stirring. The supernatant aqueous phase is decanted and the residual oil is dissolved in trichloromethane. The solution is washed with water, dried, filtered and evaporated. The residue is purified twice by column-chromatography over silica gel using a mixture of trichloromethane and 7% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue is suspended in 2,2'-oxybispropane. The product is filtered off and dried, yielding methyl 4-(4-methylphenylamino)- 1-(2-phenylethyl)-4-piperidinecarboxylate; mp. 94.5° C.

reactant | sodium 4-[N-(4-methylphenyl)amino]-1-(2-phenylethyl)-4-piperidinecarboxylate | CC1=CC=C(C=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)[O-].[Na+]
reactant | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | iodomethane | IC | CH3I
solvent | water | O | H2O
product | methyl 4-(4-methylphenylamino)- 1-(2-phenylethyl)-4-piperidinecarboxylate | CC1=CC=C(C=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)OC | C22H28N2O2
